US06025390
(E)-3-(3-Methylbenzothiophen-2-yl)-2-propenal.
3-Methylbenzo[b]thiophene-2-carboxaldehyde (4.2 g, 23.8 mmol) was dissolved in dry toluene (100 ml) and treated with (formylmethylene)triphenylphosphorane (7.35 g, 24.2 mmol). The reaction mixture was heated to 80° C. for 10 hours, allowed to cool and the residue was washed with 200 ml of hexane/Et2O 1/1 and then triturated with isopropyl ether to give pure title compound (2.5 g, 12.38 mmol, yield 52.0%), m.p.=90-92+ C.

reactant | 3-Methylbenzo[b]thiophene-2-carboxaldehyde | 23.8 mmol, 4.2 g | CC=1C2=C(SC1C=O)C=CC=C2 | C10H8OS
reactant | (formylmethylene)triphenylphosphorane | 24.2 mmol, 7.35 g | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(3-Methylbenzothiophen-2-yl)-2-propenal | 12.38 mmol, 2.5 g, yield 52.0% | CC1=C(SC2=C1C=CC=C2)/C=C/C=O | C12H10OS
